US08476287B2
<Step 1> Synthesis of 1-bromo-2,6-dimethyl-4-(2-ethoxyethoxy)Benzene
According to a method described in [WO 2005/063729 pamphlet, (Reference Example 31)], from 4-bromo-3,5-dimethylphenol (10.0 g) and 2-chloroethyl ethyl ether (5.94 mL), the subject compound (12.8 g) was obtained as a colorless oil.

reactant | 4-bromo-3,5-dimethylphenol | 10.0 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | 2-chloroethyl ethyl ether | 5.94 mL | C(C)OCCCl | C4H9ClO
product | 1-bromo-2,6-dimethyl-4-(2-ethoxyethoxy)Benzene | 12.8 g | BrC1=C(C=C(C=C1C)OCCOCC)C | C12H17BrO2
